US08614220B2
Step 2. 1-[2-Amino-4-(4-methyl-piperazin-1-yl)-phenyl]-ethanone
To a solution of 1-[2-hydroxy-4-(4-methyl-piperazin-1-yl)-phenyl]-ethanone (5.22 g, 22.2 mmol) in DMA (50 mL) NaOH (2.67 g, 66.6 mmol) was added. The mixture was stirred at room temperature for 1 h, after which time 11.1 g (66.7 mmol) of 2-bromo-2-methylpropanamide was added and the mixture was stirred at room temperature overnight. 8.01 g (200 mmol) of NaOH was added and the resulting mixture was stirred at 100° C. for 2 h, then 50 mL of water was added and the mixture was stirred at 100° C. for 1 h. After cooling to room temperature, the mixture was concentrated and then diluted with DCM and washed with water, dried over sodium sulfate and concentrated. The crude solid was purified by flash chromatography on silica gel (eluant: DCM/EtOH 95/5) to afford 1.51 g of the title compound (30% yield).

reactant | 1-[2-hydroxy-4-(4-methyl-piperazin-1-yl)-phenyl]-ethanone | 22.2 mmol, 5.22 g | OC1=C(C=CC(=C1)N1CCN(CC1)C)C(C)=O | C13H18N2O2
reactant | DMA | 66.6 mmol, 50 mL, 2.67 g | CC(=O)N(C)C | C4H9NO
reactant | 2-bromo-2-methylpropanamide | 66.7 mmol, 11.1 g | BrC(C(=O)N)(C)C | C4H8BrNO
reactant | NaOH | 200 mmol, 8.01 g | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | 1-[2-Amino-4-(4-methyl-piperazin-1-yl)-phenyl]-ethanone | 1.51 g, 30% yield | NC1=C(C=CC(=C1)N1CCN(CC1)C)C(C)=O | C13H19N3O
